US05134146
a) 1-t-Butyloxycarbonyl-3-(3-methylamino-1,2,4-oxadiazol-5-yl)-1,2,5,6-tetrahydropyridine
N-Methyl-hydroxyguanidine sulphate (17.0 g, 0.061 mol) was stirred with 4A molecular sieves (20 g) in ethanol (80 mL) under a nitrogen atmosphere for 2 hours. Sodium (2.8 g, 0.122 mol) was added in portions then the mixture was stirred at 50° C. for 1 hour. A solution of methyl 1-t-butyloxycarbonyl-1,2,5,6-tetrahydropyridine-3-carboxylate (3.0 g, 0.012 mol) in ethanol (40 mL) was added and the reaction mixture was stirred whilst heating under reflux for 4 hours. The mixture was cooled, filtered, evaporated to dryness. The residue was dissolved in tetrahydrofuran (40 mL), treated with potassium t-butoxide (1.35 g, 0.012 mol) and stirred for 3 hours. Water (50 mL) was added and the mixture extracted with dichloromethane (5×50 mL). The combined organics were dried (sodium sulphate) then evaporated to dryness to give a yellow gum which was purified by column chromatography on silica using dichloromethane/methanol (80:1) afford the product as a pale yellow gum (1.10 g, 33%). (HRMS, Found: M+, 280.1530, C13H20N4O3 requires M, 280.1535). (Found: C, 54.70; H, 7.29; N, 18.91. C13H20N4O3 requires C, 55.70; H, 7.19, N, 19.99%).

reactant | N-Methyl-hydroxyguanidine sulphate | 0.061 mol, 17.0 g | S(=O)(=O)(O)O.CN(C(=N)N)O
reactant | Sodium | 0.122 mol, 2.8 g | [Na] | Na
reactant | methyl 1-t-butyloxycarbonyl-1,2,5,6-tetrahydropyridine-3-carboxylate | 0.012 mol, 3.0 g | C(C)(C)(C)OC(=O)N1CC(=CCC1)C(=O)OC | C12H19NO4
reactant | potassium t-butoxide | 0.012 mol, 1.35 g | CC(C)([O-])C.[K+]
solvent | ethanol | 80 mL | C(C)O | C2H6O
solvent | ethanol | 40 mL | C(C)O | C2H6O
solvent | Water | 50 mL | O | H2O
product | 1-t-Butyloxycarbonyl-3-(3-methylamino-1,2,4-oxadiazol-5-yl)-1,2,5,6-tetrahydropyridine | 1.10 g, 33% | C(C)(C)(C)OC(=O)N1CC(=CCC1)C1=NC(=NO1)NC | C13H20N4O3
